US07674815B2
Preparation of 5-chloro-1H-indole-7-carboxylic acid benzofuran-2-ylmethyl-[2-(3,4-dichloro-phenyl)-ethyl]-amide
To a solution of 72 mg (0.37 mmol) of 5-chloro-1H-indole-7-carboxylic acid and 118 mg (0.37 mmol) of benzofuran-2-ylmethyl-[2-(3,4-dichloro-phenyl)-ethyl]-amine in DMF (5 ml) were added 131 mg (0.41 mmol) of TBTU and 126 μl (0.74 mmol) of N,N-diisopropylethyl amine and the mixture was stirred over night at RT. Then the reaction mixture was diluted with ethyl acetate and washed with water, brine, sat. NaHCO3 solution, 1N HCl and again with brine. The organic layer was then dried (MgSO4) and concentrated. The remaining residue was purified by column chromatography (silica gel; ethyl acetate/cyclohexane 9:1) to yield the title compound as a yellow oil (145 mg, 79%). MS (ISP) 497.3 (M+H)+.

reactant | 5-chloro-1H-indole-7-carboxylic acid | 0.37 mmol, 72 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | benzofuran-2-ylmethyl-[2-(3,4-dichloro-phenyl)-ethyl]-amine | 0.37 mmol, 118 mg | O1C(=CC2=C1C=CC=C2)CNCCC2=CC(=C(C=C2)Cl)Cl | C17H15Cl2NO
reactant | TBTU | 0.41 mmol, 131 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 0.74 mmol, 126 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-1H-indole-7-carboxylic acid benzofuran-2-ylmethyl-[2-(3,4-dichloro-phenyl)-ethyl]-amide | 145 mg, 79% | O1C(=CC2=C1C=CC=C2)CN(C(=O)C=2C=C(C=C1C=CNC21)Cl)CCC2=CC(=C(C=C2)Cl)Cl | C26H19Cl3N2O2
